US07456175B2
Step 1: N-[2-(4-Isopropyl-piperazin-1-yl)-pyridin-4-yl]-N-methyl-acetamide
A mixture of 4 g (22 mmol) N-(2-chloro-pyridin-4-yl)-N-methyl-acetamide and 2.8 g (22 mmol) 1-(2-propyl)-piperazine was heated to 120° C. for 24 h. The crude product was purified by flash column chromatography on silica elutingwith a gradient formed from heptane and ethyl acetate (0.1% NEt3) to yield after evaporation of the product fractions 2.5 g (41%) of the title compound as light brow oil. MS: (m/e): 277.2 (MH+).

reactant | N-(2-chloro-pyridin-4-yl)-N-methyl-acetamide | 22 mmol, 4 g | ClC1=NC=CC(=C1)N(C(C)=O)C | C8H9ClN2O
reactant | 1-(2-propyl)-piperazine | 22 mmol, 2.8 g | CC(C)N1CCNCC1 | C7H16N2
product | N-[2-(4-Isopropyl-piperazin-1-yl)-pyridin-4-yl]-N-methyl-acetamide | C(C)(C)N1CCN(CC1)C1=NC=CC(=C1)N(C(C)=O)C | C15H24N4O
